US07067540B2
Preparation of 1-benzyl-3-bromo-4-(2-phenylethyl)pyridin-2(1H)-one.
A mixture of 1-benzyl-3-bromo-4-(phenylethynyl)pyridin-2(1H)-one (0.3 g), and platinum oxide (0.05 g) in a solvent mixture of EtOAc (10.0 mL) and EtOH (10.0 mL) was stirred in an atmosphere of hydrogen at 15 psi in a Fischer porter bottle for 45 min. The catalyst was removed by filtration, and filtrate was concentrated. The resulting residue was purified by silica gel flash chromatography using 25% EtOAc in hexanes as the eluent. The appropriate fractions (visualized under an UV lamp) were combined and concentrated under reduced pressure. 1H-NMR (CD3OD) δ: 7.56 (d, 1H, J=6.8 Hz), 7.31-7.17 (m, 10H), 6.24 (d, 1H, J=6.8 Hz), 5.19 (s, 2H), 2.96 (m, 2H), and 2.91 (m, 2H); ES-MS m/z=368 (MH+); HR-MS m/z (MH+) calcd C20H19NOBr 368.0650, found 368.0630.

reactant | 1-benzyl-3-bromo-4-(phenylethynyl)pyridin-2(1H)-one | 0.3 g | C(C1=CC=CC=C1)N1C(C(=C(C=C1)C#CC1=CC=CC=C1)Br)=O | C20H14BrNO
reactant | EtOAc | 10.0 mL | CCOC(=O)C | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.05 g | [Pt]=O
solvent | EtOH | 10.0 mL | CCO | C2H6O
product | 1-benzyl-3-bromo-4-(2-phenylethyl)pyridin-2(1H)-one | C(C1=CC=CC=C1)N1C(C(=C(C=C1)CCC1=CC=CC=C1)Br)=O | C20H18BrNO
